US09326973B2
HATU (16.25 g, 42.7 mmol) was added to a stirred solution of 4-iodobenzene-1,2-diamine (10 g, 42.7 mmol), (S)-2-((tert-butoxycarbonyl)amino)-3,3-dimethylbutanoic acid (9.88 g, 42.7 mmol) and DIPEA (14.93 mL, 85 mmol) in DMF (120 mL) at 0° C. and the reaction mixture was stirred at rt for 12 h. The reaction mixture was diluted with water and EtOAc. The organic layer was washed with water, 10% NaHCO3 solution, brine, dried over Na2SO4 and concentrated to yield (S)-tert-butyl (1-((2-amino-5-iodophenyl)amino)-3,3-dimethyl-1-oxobutan-2-yl)carbamate (20 g). LC/MS (Condition B-10): Rt=1.94 min. LC/MS: Anal. Calcd. for [M+H]+ C17H27IN3O3: 448.10; found 448.2.

reactant | HATU | 42.7 mmol, 16.25 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 4-iodobenzene-1,2-diamine | 42.7 mmol, 10 g | IC=1C=C(C(=CC1)N)N | C6H7IN2
reactant | (S)-2-((tert-butoxycarbonyl)amino)-3,3-dimethylbutanoic acid | 42.7 mmol, 9.88 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)C(C)(C)C | C11H21NO4
reactant | DIPEA | 85 mmol, 14.93 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 120 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (S)-tert-butyl (1-((2-amino-5-iodophenyl)amino)-3,3-dimethyl-1-oxobutan-2-yl)carbamate | 20 g | NC1=C(C=C(C=C1)I)NC([C@H](C(C)(C)C)NC(OC(C)(C)C)=O)=O | C17H26IN3O3
